US05039676
Dimethyl 1-(4-chlorophenyl)-7-oxabicyclo[2.2.1] hepta-2,5 -diene-2,3-dicarboxylate
A mixture of 2-(4-chlorophenyl)furan (prepared according to A.W. Johnson, J. of Chem. Soc. 1946, p 895-99) (0.105 g), and dimethyl acetylenedicarboxylate (0.07 mL) in distilled water (0.25 mL) was placed in a closed vial and subjected to ultrasonic vibration overnight. The reaction temperature at the end of the reaction was between 40 and 50° C. After cooling the Diels-Alder adduct was isolated by extraction with ethyl acetate. The ethyl acetate extract was dried (Na2SO4) and evaporated to dryness in-vacuo to provide almost pure product which was further purified by chromatography on silica gel using 5-10% acetone in n-hexane. The title compound (0.16 g) m.p. 84° C. was isolated from some of the combined fractions: PMR δH (CDCl3): 3.7(s,3H), 3.84 (s, 3H), 5.76 (d, 1H, J=1.2Hz), 7.58-7.29 (m, 5H).

reactant | 2-(4-chlorophenyl)furan | 0.105 g | ClC1=CC=C(C=C1)C=1OC=CC1 | C10H7ClO
reactant | dimethyl acetylenedicarboxylate | 0.07 mL | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 0.25 mL | O | H2O
product | Dimethyl 1-(4-chlorophenyl)-7-oxabicyclo[2.2.1] hepta-2,5 -diene-2,3-dicarboxylate | 0.16 g | ClC1=CC=C(C=C1)C12C(=C(C(C=C1)O2)C(=O)OC)C(=O)OC | C16H13ClO5
